US07985755B2
(4-Chlorophenyl)-[4-(2,4-diaminoquinazolin-5-yloxymethyl)piperidin-1-yl]methanone (Method Z) (Example-016).
2-[1-(4-Chlorobenzoyl)piperidin-4-ylmethoxy]-6-fluorobenzonitrile (110 mg, 0.3 mmol) and guanidine carbonate (53 mg; 0.3 mmol) were heated at 140° C. in dimethylacetamide for 4 hours. The mixture was cooled and triturated with water for 45 minutes. Solids were filter off and triturated with 3 mL of ethanol. Solids were collected by filtration and dried to afford 75 mg of title compound (59% yield) 1HNMR (400 MHz, DMSO-d6) δ 7.52 (m, 2H), 7.43 (m, 2H), 7.35 (t, J=8.4 Hz, 1H), 7.17 (br d, J=15.2 Hz, 2H), 6.77 (dd, J=8.4, 0.8 Hz, 1H), 6.54 (d, J=7.2 Hz, 1H), 5.95 (br s, 2H), 4.51 (br s, 1H), 4.03 (d, J=6.4 Hz, 2H), 3.59 (br s, 1H), 3.11 (br s, 1H), 2.84 (br s, 1H), 2.22 (m, 1H), 1.87 (br s, 1H), 1.76 (br s, 1H), 1.3 (br d, J=10.4 Hz, 2H). MS m/z (ESI) 412 (M−H)+.

reactant | 2-[1-(4-Chlorobenzoyl)piperidin-4-ylmethoxy]-6-fluorobenzonitrile | 0.3 mmol, 110 mg | ClC1=CC=C(C(=O)N2CCC(CC2)COC2=C(C#N)C(=CC=C2)F)C=C1 | C20H18ClFN2O2
reactant | guanidine carbonate | 0.3 mmol, 53 mg | C(O)(O)=O.NC(=N)N
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | (4-Chlorophenyl)-[4-(2,4-diaminoquinazolin-5-yloxymethyl)piperidin-1-yl]methanone | 75 mg, 59% yield | ClC1=CC=C(C=C1)C(=O)N1CCC(CC1)COC1=C2C(=NC(=NC2=CC=C1)N)N | C21H22ClN5O2
